US07723333B2
2-tert-Butyl-4-{[(5-methylisoxazol-3-yl)methyl]-amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared as described for Example 24 from 1 equivalent of [(5-methylisoxazol-3-yl)methyl]-amine, 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 1 equivalent TEA with a reaction time of 45 mins. The mixture was evaporated and purified by silica gel column chromatography (Horizons Biotage) using 35% EtOAc in pentane as eluent to give the title compound (0.070 g, 56%). 1H NMR (500 MHz CDCl3): δ 7.52-7.48 (m, 2H), 7.46-7.41 (m, 3H), 5.73 (s, 1H), 5.66 (t, 1H), 5.07 (d, 2H), 2.39 (s, 3H), 1.74 (s, 9H); 13C NMR (125 MHz CDCl3): δ 170.7, 159.9, 159.4, 134.8, 131.6, 130.1, 128.9, 124.7, 109.3, 100.4, 61.9, 40.4, 27.8, 12.5; Mass Spectrum: M+H+ 376

reactant | [(5-methylisoxazol-3-yl)methyl]-amine | 1 equivalent | CC1=CC(=NO1)CN | C5H8N2O
reactant | 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
product | 2-tert-Butyl-4-{[(5-methylisoxazol-3-yl)methyl]-amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.070 g, 56% | C(C)(C)(C)N1S(C(=C(C1=O)NCC1=NOC(=C1)C)C1=CC=CC=C1)(=O)=O | C18H21N3O4S
